US06518257B1
(iii) Production of 6-{4-[1-hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl]phenyl}-N-isopropyl-2-pyridinecarboxamide
By the reaction in the same manner as in Example 4-(iii) using 6-{4-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl]phenyl}-N-isopropyl-2-pyridinecarboxamide (1.60 g) and pyridine hydrochloride (770 mg), the title compound (350 mg) was obtained as colorless powder crystals.

reactant | 6-{4-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl]phenyl}-N-isopropyl-2-pyridinecarboxamide | 1.60 g | OC(C(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)C1=CC=CC(=N1)C(=O)NC(C)C | C41H40N4O2
reactant | pyridine hydrochloride | 770 mg | Cl.N1=CC=CC=C1
product | 6-{4-[1-hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl]phenyl}-N-isopropyl-2-pyridinecarboxamide | 350 mg | OC(C(C)C)(C=1N=CNC1)C1=CC=C(C=C1)C1=CC=CC(=N1)C(=O)NC(C)C | C22H26N4O2
